US09193720B2
The 2.0 mL of benzo[d][1,3,2]dioxaborole (2.3 g, 9.56 mmol) was added to a nitrogen purged solution of isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)-2-oxoacetate (1.9 g, 4.78 mmol) and 1.9 mL of (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole (530 mg, 1.9 mmol) in toluene (45 mL) at −60° C. and allowed to warm to −15° C. before being placed in the freezer overnight. The reaction was quenched with 1M Na2CO3, diluted with EtOAc, and stirred for 30 min. The organic layer was washed with sat'd Na2CO3 solution, brine and dried (MgSO4). The crude product was charged (DCM) to a 80 g ISCO silica gel cartridge and gradient elution (0-30% EtOAc/hexanes) using an Isolera chromatography station gave (S)-isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)-2-hydroxyacetate 1.9 g (100%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 5.94 (s, 1H), 4.94 (dt, J=12.3, 6.3 Hz, 1H), 3.57 (t, J=11.0 Hz, 1H), 3.34 (t, J=11.4 Hz 1H), 2.86 (d, J=11 Hz, 1H), 2.76 (d, J=11.0 Hz, 1H), 2.51 (s, 3H), 2.37 (s, 3H), 1.64-1.56 (m, 2H), 1.43 (br. s, 1H), 1.29-1.25 (m, 2H), 1.14 (d, J=6.2 Hz, 3H), 1.07 (d, J=6.2 Hz, 3H), 0.95 (d, J=6.2 Hz, 3H). UPLC (M+H)=401.2.

reactant | benzo[d][1,3,2]dioxaborole | 9.56 mmol, 2.0 mL, 2.3 g | O1BOC2=C1C=CC=C2 | C6H5BO2
reactant | isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)-2-oxoacetate | 4.78 mmol, 1.9 g | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)N1CCC(CC1)C | C18H25BrN2O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole | 1.9 mmol, 1.9 mL, 530 mg | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C18H20BNO
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)-2-hydroxyacetate | 1.9 g, 100% | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)O)N1CCC(CC1)C | C18H27BrN2O3
